US08304546B2
2-Chloro-N-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}acetamide (370 mg, 0.8 mmol) was suspended in acetonitrile (12 ml). 1-(2-Methoxyethyl)piperazine (138 mg, 0.96 mmol), triethylamine (162 mg, 1.6 mmol) and acetonitrile (2 ml) were added to the suspension, and stirred at 70 to 80° C. for 6 hours. The resulting mixture was concentrated under reduced pressure, and the residue was subjected to extraction using ethyl acetate. The extract was then sequentially washed with water, an aqueous saturated sodium chloride solution, and an aqueous saturated sodium bicarbonate solution. The washed product was concentrated under reduced pressure, and the residue was purified using silica gel column chromatography (dichloromethane:methanol=30:1→10:1). The purified product was concentrated under reduced pressure, and the residue was then dissolved in ethyl acetate (5 ml). A 4N hydrogen chloride ethyl acetate solution (0.19 ml) was added thereto and stirred, and then the mixture was concentrated to dryness under reduced pressure, giving a pale yellow amorphous solid of N-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}-2-[4-(2-methoxyethyl)piperazin-1-yl]acetamide hydrochloride (200 mg).

reactant | 2-Chloro-N-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}acetamide | 0.8 mmol, 370 mg | ClCC(=O)NCCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC | C24H26ClFN2O4
reactant | 1-(2-Methoxyethyl)piperazine | 0.96 mmol, 138 mg | COCCN1CCNCC1 | C7H16N2O
reactant | triethylamine | 1.6 mmol, 162 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}-2-[4-(2-methoxyethyl)piperazin-1-yl]acetamide hydrochloride | 200 mg | Cl.FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCCNC(CN1CCN(CC1)CCOC)=O)C1=CC=C(C=C1)OC)=O | InChI=1S/C31H41FN4O5.ClH/c1-4-19-41-27-11-10-26(32)29-30(27)36(21-25(31(29)38)23-6-8-24(40-3)9-7-23)13-5-12-33-28(37)22-35-16-14-34(15-17-35)18-20-39-2;/h6-11,21H,4-5,12-20,22H2,1-3H3,(H,33,37);1H
